US05807880
A mixed solution of the thus obtained 9-benzenesulfonyl-2-[1-(1H-imidazol-1-yl)ethyl]carbazole (0.436 g, 1.09 mmol), ethanol (50 ml) and 2N sodium hydroxide aqueous solution (10 ml) was heated under reflux for 4 hours. After evaporation of volatile components under reduced pressure, the resulting residue was mixed with chloroform and washed with saturated sodium chloride aqueous solution, and the organic layer was dried over magnesium sulfate. After evaporation of the solvent under reduced pressure, the resulting residue was purified by silica gel column chromatography to obtain crude crystals from the eluate of chloroform-methanol (100:1). By recrystallizing the crude crystals from ethyl acetate, 0.174 g of 2-[1-(1H-imidazol-1-yl) ethyl]carbazole was obtained.

reactant | 9-benzenesulfonyl-2-[1-(1H-imidazol-1-yl)ethyl]carbazole | 1.09 mmol, 0.436 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C=CC(=CC12)C(C)N1C=NC=C1 | C23H19N3O2S
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[1-(1H-imidazol-1-yl) ethyl]carbazole | 0.174 g | N1(C=NC=C1)C(C)C1=CC=2NC3=CC=CC=C3C2C=C1 | C17H15N3
